US07674804B2
4-Methoxy-6-(piperidin-4-ylamino)-pyrimidin-2-ol dihydrochloride
A solution of 4-(2,6-dimethoxy-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.71 g, 2.10 mmol) in ethanol (10 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 48 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 225.4 [M+H]+.

reactant | 4-(2,6-dimethoxy-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.10 mmol, 0.71 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC(=C1)OC)OC | C16H26N4O4
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 4-Methoxy-6-(piperidin-4-ylamino)-pyrimidin-2-ol dihydrochloride | Cl.Cl.COC1=NC(=NC(=C1)NC1CCNCC1)O | InChI=1S/C10H16N4O2.2ClH/c1-16-9-6-8(13-10(15)14-9)12-7-2-4-11-5-3-7;;/h6-7,11H,2-5H2,1H3,(H2,12,13,14,15);2*1H
